US08138197B2
3-Methyl-1-pyridin-2-yl-1H-thieno[2,3-c]pyrazole-5-carboxylic acid
In a 1.0-liter egg plant-type flask, mercaptoacetic acid (10.3 g, 0.15 mol) and potassium hydroxide (35.6 g, 0.54 mol) were added to an ethanol (600 mL) solution of 5-chloro-3-methyl-1-pyridin-2-yl-1H-pyrazole-4-carbaldehyde (30.0 g, 0.14 mol), and stirred for 2 hours with heating under reflux. Ethanol was removed from the reaction solution under reduced pressure, then the residue was diluted with water and made acidic with aqueous 5 N hydrochloric acid solution added thereto, and the formed precipitate was taken out through filtration, washed with methanol and ethyl acetate in that order, and dried under reduced pressure to obtain the title compound as a pale brown solid.

reactant | mercaptoacetic acid | 0.15 mol, 10.3 g | SCC(=O)O | C2H4O2S
reactant | potassium hydroxide | 0.54 mol, 35.6 g | [OH-].[K+]
reactant | 5-chloro-3-methyl-1-pyridin-2-yl-1H-pyrazole-4-carbaldehyde | 0.14 mol, 30.0 g | ClC1=C(C(=NN1C1=NC=CC=C1)C)C=O | C10H8ClN3O
solvent | ethanol | 600 mL | C(C)O | C2H6O
product | 3-Methyl-1-pyridin-2-yl-1H-thieno[2,3-c]pyrazole-5-carboxylic acid | CC=1C2=C(N(N1)C1=NC=CC=C1)SC(=C2)C(=O)O | C12H9N3O2S
